US09024032B2
5-(Benzyloxy)-1-(biphenyl-3-yl)-2-(hydroxymethyl)pyridin-4(1H)-one (112 g, 292 mmol) was dissolved in 2.2 L of anhydrous THF and active manganese dioxide (407 g, 4.68 mol) was added. The reaction mixture was heated under reflux for 3 hours. The insoluble part was filtered off and the filtrate was concentrated to give crude 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carbaldehyde, which was used in next step without further purification.

reactant | 5-(Benzyloxy)-1-(biphenyl-3-yl)-2-(hydroxymethyl)pyridin-4(1H)-one | 292 mmol, 112 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)CO)=O | C25H21NO3
solvent | THF | 2.2 L | C1CCOC1 | C4H8O
catalyst | manganese dioxide | 4.68 mol, 407 g | [O-2].[O-2].[Mn+4]
product | 5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carbaldehyde | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C=O)=O | C25H19NO3
